US04999356
To a solution of 3.4 ml of acetic anhydride and 1.5 ml of formic acid heated at 55° C. for 1.5 hours and then cooled to ambient temperature was added, dropwise, a solution of 5.6 g of 1-phenyl-3-(1-piperazinyl)-1H-indazole in 20 ml of tetrahydrofuran. The reaction mixture was stirred at ambient temperature for 2 hours and then concentrated to an oil. Trituration of the oil with refluxing diethyl ether yielded a solid which was recrystallized from isopropanol (3×) to yield 2.6 g (42%) of 4-formyl-1-(1-phenyl-1H-indazol-3-yl)piperazine, m.p. 130°-132°.

reactant | acetic anhydride | 3.4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 1.5 ml | C(=O)O | CH2O2
reactant | 1-phenyl-3-(1-piperazinyl)-1H-indazole | 5.6 g | C1(=CC=CC=C1)N1N=C(C2=CC=CC=C12)N1CCNCC1 | C17H18N4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-formyl-1-(1-phenyl-1H-indazol-3-yl)piperazine | 2.6 g, 42% | C(=O)N1CCN(CC1)C1=NN(C2=CC=CC=C12)C1=CC=CC=C1 | C18H18N4O
